* Wurlitzer 200A — C-6 REGRESSION GUARD (was: tremolo pump probe)
* RE-BASELINED 2026-09-13: with the drawn topology's C-6 in place, the
* R-9/R-10 node sits at 0V DC and NO DC reaches the LDR leg. Measured:
* emit1/coll1 pump = 0.000 mV pp under 19K<->1M LDR cycling at 5.63 Hz.
* EXPECTED RESULT: ZERO pump. Any nonzero pump here means C-6 (or its
* placement) regressed. The historical pump this bench was written to
* dissect was an artifact of the pre-revision DC-coupled output.

.title Pump Internal Nodes

.include ../models/transistors.lib
.include ../models/diodes.lib
.include ../subcircuits/preamp.cir

Vcc  vcc 0  DC 14.5
Xpre  in_sig out vcc 0 fb_junct  wurli_preamp
Vin  in_sig 0  DC 0

* Behavioral LDR: sweeps 19K to 1M at 5.63 Hz
Bldr  fb_junct 0  I = V(fb_junct) / (1e6 - 981e3 * (0.5 + 0.5*sin(2*3.14159265*5.63*time)))

.tran 100U 2 1.0 100U

* Only emit1 and coll1
.print TRAN V(Xpre.emit1) V(Xpre.coll1)

.end
